US08357688B2
To a mixed liquid of 1.70 g of methyl 4-chloro-8-methyl-1-(tetrahydro-2H-thiopyran-4-ylmethyl)[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate, 18.0 mL of tetrahydrofuran, and 18.0 mL of methanol was added 9.20 mL of a 3 M aqueous sodium hydroxide solution, followed by stirring at 60° C. overnight. 3 M hydrochloric acid was added thereto to adjust the pH to about 3, and the precipitated solid was collected by filtration and dried under reduced pressure to obtain 1.20 g of 8-methyl-4-oxo-1-(tetrahydro-2H-thiopyran-4-ylmethyl)-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid as a yellow solid.

reactant | methyl 4-chloro-8-methyl-1-(tetrahydro-2H-thiopyran-4-ylmethyl)[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylate | 1.70 g | ClC=1C=2N(C3=CC(=C(C=C3N1)C(=O)OC)C)C(=NN2)CC2CCSCC2 | C18H19ClN4O2S
reactant | tetrahydrofuran | 18.0 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 3 M | [OH-].[Na+]
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | methanol | 18.0 mL | CO | CH4O
product | 8-methyl-4-oxo-1-(tetrahydro-2H-thiopyran-4-ylmethyl)-4,5-dihydro[1,2,4]triazolo[4,3-a]quinoxaline-7-carboxylic acid | 1.20 g | CC1=C(C=C2NC(C=3N(C2=C1)C(=NN3)CC3CCSCC3)=O)C(=O)O | C17H18N4O3S
